US04584146
Tetrakis(2,4,6-tris-t-butyl-phenyl) 4,4'-isopropylidenebisphenyl diphosphite
A solution of 1.16 grams of 4,4'-isopropylidenebisphenol (0.005 mol) in 50 ml of dry tetrahydrofuran was added to a reaction vessel equipped with stirring and heating means. While stirring the 4,4'-isopropylidenebisphenol solution under nitrogen, 0.24 gram (0.01 mol) of sodium hydride, as a 50 weight percent dispersion in mineral oil was added to the 4,4-iso-propylidenebisphenol solution and the resulting mixture was stirred at 55° C. for one hour. The reaction mixture was cooled to room temperature and a solution of bis(2,4,6-tri-t-butylphenyl) phosphorochloridite (6.0 grams, 0.01 mol) in 25 ml of tetrahydrofuran was added to the reaction mixture and the mixture was stirred for three hours. The reaction product was then acidified with 1N HCl and filtered. The filtrate was heated to remove the solvent, and an oily reaction product was obtained. This oil was stirred with 50 ml of acetonitrile for one hour. The resulting white powder was recovered by filtration and dried. The product yield of tetrakis(2,4,6-tri-t-butylphenyl)-4,4'-isopropylidenebisphenyl diphosphite was 4.87 grams. The molecular weight, FD/MS was 1332.

reactant | 4,4'-isopropylidenebisphenol | 0.005 mol, 1.16 grams | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydride | 0.01 mol, 0.24 gram | [H-].[Na+]
reactant | bis(2,4,6-tri-t-butylphenyl) phosphorochloridite | 0.01 mol, 6.0 grams | P(OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)Cl | C36H58ClO2P
reactant | HCl | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | Tetrakis(2,4,6-tris-t-butyl-phenyl) 4,4'-isopropylidenebisphenyl diphosphite | P(OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)(OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OP(OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C)OC1=C(C=C(C=C1C(C)(C)C)C(C)(C)C)C(C)(C)C | C87H130O6P2
